US05302724
The procedure of Example 3A was followed with 2,3-dimethylthiophene (6.0 g, 53.6 mmole), chlorosulfonic acid (27.5 g), dry chloroform (160 ml total), and concentrated ammonium hydroxide to provide solid 4,5-dimethyl-2-thiophenesulfonamide. The sulfonamide (1.5 g, 7.7 mmole), 1N NaOH (7.7 ml), acetone (7.0 ml) were combined and 4-chlorophenyl isocyanate (1.14 g, 7.7 mmole), 1N HCl (7.7 ml) to provide the named product (1.0 g).

reactant | 2,3-dimethylthiophene | 53.6 mmole, 6.0 g | CC=1SC=CC1C | C6H8S
reactant | chlorosulfonic acid | 27.5 g | ClS(=O)(=O)O | ClHO3S
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | chloroform | 160 ml | C(Cl)(Cl)Cl | CHCl3
product | 4,5-dimethyl-2-thiophenesulfonamide | CC=1C=C(SC1C)S(=O)(=O)N | C6H9NO2S2
